US04587048
3-methyl-2-[4-(4-methylphenylsulphonylthio)-2-oxo-3-phenoxyacetaminoazetidin-1-yl]-3-butenoic acid diphenylmethyl ester
5.32 g (10 mmol) of 6-phenoxyacetaminopenicillanic acid diphenylmethyl ester 1-oxide are dissolved in 50 ml of ethylene chloride, 5 g of molecular sieve and 1.85 g of trimethyl phosphite are added at room temperature and the mixture is refluxed for 24 hours. It is then filtered, washed three times with 25 ml of water each time, and concentrated to 35 ml by evaporation in vacuo. 2.1 g (13.5 mmol) of p-toluenesulphinic acid and 1 ml of 30% aqueous p-toluenesulphonic acid are added to the resulting solution of 3-methyl-2-(3-phenoxymethyl-7-oxo-4-thia-2,6-diazabicyclo[3.2.0]hept-2-en-6-yl)-3-butenoic acid diphenylmethyl ester and the whole is stirred at room temperature. A solution of 3.04 g (26 mmol) of isoamyl nitrite in 5 ml of ethylene chloride is then added dropwise in the course of 15 minutes, the internal temperature rising from 22° to 27°. The solution changes colour via pale and dark green to dark red. The solution is stirred for a further 18 hours at room temperature with the exclusion of light, after which the colour of the solution has changed back to yellow again. Working up is carried out in the same manner as described under (a).

reactant | trimethyl phosphite | 1.85 g | P(OC)(OC)OC | C3H9O3P
reactant | p-toluenesulphinic acid | 13.5 mmol, 2.1 g | C1(=CC=C(C=C1)S(=O)O)C | C7H8O2S
reactant | p-toluenesulphonic acid | 1 ml | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 3-methyl-2-(3-phenoxymethyl-7-oxo-4-thia-2,6-diazabicyclo[3.2.0]hept-2-en-6-yl)-3-butenoic acid diphenylmethyl ester | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(C(C(=C)C)N1C2SC(=NC2C1=O)COC1=CC=CC=C1)=O | C29H26N2O4S
reactant | isoamyl nitrite | 26 mmol, 3.04 g | N(=O)OCCC(C)C | C5H11NO2
solvent | ethylene chloride | 50 ml | C(CCl)Cl | C2H4Cl2
solvent | ethylene chloride | 5 ml | C(CCl)Cl | C2H4Cl2
product | 3-methyl-2-[4-(4-methylphenylsulphonylthio)-2-oxo-3-phenoxyacetaminoazetidin-1-yl]-3-butenoic acid diphenylmethyl ester | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(C(C(=C)C)N1C(C(C1SS(=O)(=O)C1=CC=C(C=C1)C)(OC1=CC=CC=C1)NC(=O)C)=O)=O | C36H34N2O7S2
